
************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7805CT 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
**************************************
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 0.0444444
RST6 135 2 10000
RIQX 133 132 RQIX 2222.22
.MODEL RQIX R TC1=-0
RSET 19 2 RSET 5000
.MODEL RSET R TC1=1e-05 TC2=-1.5005e-06
RS1 10 12 0.0075
VDROPX 18 17 1.46
HSENSE1 35 2 VSENS1 4.16667
RISC 30 2 RISC 10000
.MODEL RISC R TC1=-0.0025
ROV 34 2 20000
VOV 33 34 10
EOV2 2 40 34 2 0.291667
FIQD 3 2 VSENS1 0.0003
RY 52 54 5e+06
RA 72 73 2162.75
RYR 71 72 9.999e+06
CRA 52 73 1.59136e-11
HSTEP 76 2 VSENS1 1
CSTEP 76 77 6e-06
.ENDS
============= Model template =================
x%p %tIN %tOUT %tGND %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7806C 3 1 2
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
* Model generated on Sep  8, 97
* MODEL FORMAT: SPICE3
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 0.0465116
RST6 135 2 10000
RIQX 133 132 RQIX 2325.58
.MODEL RQIX R TC1=-0
RSET 19 2 RSET 6000
.MODEL RSET R TC1=-0.0001 TC2=-1.495e-06
RS1 10 12 0.0085
VDROPX 18 17 1.46
HSENSE1 35 2 VSENS1 4.54545
RISC 30 2 RISC 10000
.MODEL RISC R TC1=-0.0025
ROV 34 2 20000
VOV 33 34 10
EOV2 2 40 34 2 0.318182
FIQD 3 2 VSENS1 0.0003
RY 52 54 2.08333e+06
RA 72 73 2163.11
RYR 71 72 5.62241e+06
CRA 52 73 2.82963e-12
HSTEP 76 2 VSENS1 0.8
CSTEP 76 77 1e-05
.ENDS lm7806c
============= Model template =================
x%p %tIN %tOUT %tGND %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7808C 3 1 2
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
* Model generated on Sep  8, 97
* MODEL FORMAT: SPICE3
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 0.0651163
RST6 135 2 14000
RIQX 133 132 RQIX 3255.81
.MODEL RQIX R TC1=-0
RSET 19 2 RSET 8000
.MODEL RSET R TC1=-0.0001 TC2=-1.495e-06
RS1 10 12 0.01
VDROPX 18 17 1.46
HSENSE1 35 2 VSENS1 4.54545
RISC 30 2 RISC 10000
.MODEL RISC R TC1=-0.0025
ROV 34 2 20000
VOV 33 34 10
EOV2 2 40 34 2 0.318182
FIQD 3 2 VSENS1 0.0003
RY 52 54 1.5625e+06
RA 72 73 2163.45
RYR 71 72 3.98007e+06
CRA 52 73 3.99662e-12
HSTEP 76 2 VSENS1 0.8
CSTEP 76 77 1e-05
.ENDS lm7808c
============= Model template =================
x%p %tIN %tOUT %tGND %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7809CT 1 2 3
* POSITIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc 10.3
Q2 1 4 5 CNTL_NPN
Q1 1 5 3 POWER_NPN
*
.MODEL CNTL_NPN NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.MODEL POWER_NPN NPN
+IS=3.41639e-13 BF=405.26 NF=1.03507 VAF=120.176
+IKF=10 ISE=8.44498e-12 NE=3.47601 BR=0.1
+NR=1.04536 VAR=1.10398 IKR=2.5029 ISC=5.50017e-13
+NC=3.93748 RB=1.80955 IRB=6.50293 RBM=1.80955
+RE=0.0001 RC=0.13777 XTB=0.1 XTI=1
+EG=1.05 CJE=6.36056e-10 VJE=0.4 MJE=0.479146
+TF=7.91835e-08 XTF=463.212 VTF=62107.5 ITF=1000
+CJC=2.70642e-10 VJC=0.95 MJC=0.406578 XCJC=0.128859
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=8.186e-05 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7812CT 1 2 3
* POSITIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc 13.3
Q2 1 4 5 CNTL_NPN
Q1 1 5 3 POWER_NPN
*
.MODEL CNTL_NPN NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.MODEL POWER_NPN NPN
+IS=3.41639e-13 BF=405.26 NF=1.03507 VAF=120.176
+IKF=10 ISE=8.44498e-12 NE=3.47601 BR=0.1
+NR=1.04536 VAR=1.10398 IKR=2.5029 ISC=5.50017e-13
+NC=3.93748 RB=1.80955 IRB=6.50293 RBM=1.80955
+RE=0.0001 RC=0.13777 XTB=0.1 XTI=1
+EG=1.05 CJE=6.36056e-10 VJE=0.4 MJE=0.479146
+TF=7.91835e-08 XTF=463.212 VTF=62107.5 ITF=1000
+CJC=2.70642e-10 VJC=0.95 MJC=0.406578 XCJC=0.128859
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=8.186e-05 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7815CT 1 2 3
* POSITIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc 16.3
Q2 1 4 5 CNTL_NPN
Q1 1 5 3 POWER_NPN
*
.MODEL CNTL_NPN NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.MODEL POWER_NPN NPN
+IS=3.41639e-13 BF=405.26 NF=1.03507 VAF=120.176
+IKF=10 ISE=8.44498e-12 NE=3.47601 BR=0.1
+NR=1.04536 VAR=1.10398 IKR=2.5029 ISC=5.50017e-13
+NC=3.93748 RB=1.80955 IRB=6.50293 RBM=1.80955
+RE=0.0001 RC=0.13777 XTB=0.1 XTI=1
+EG=1.05 CJE=6.36056e-10 VJE=0.4 MJE=0.479146
+TF=7.91835e-08 XTF=463.212 VTF=62107.5 ITF=1000
+CJC=2.70642e-10 VJC=0.95 MJC=0.406578 XCJC=0.128859
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=8.186e-05 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7818CT 1 2 3
* POSITIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc 19.3
Q2 1 4 5 CNTL_NPN
Q1 1 5 3 POWER_NPN
*
.MODEL CNTL_NPN NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.MODEL POWER_NPN NPN
+IS=3.41639e-13 BF=405.26 NF=1.03507 VAF=120.176
+IKF=10 ISE=8.44498e-12 NE=3.47601 BR=0.1
+NR=1.04536 VAR=1.10398 IKR=2.5029 ISC=5.50017e-13
+NC=3.93748 RB=1.80955 IRB=6.50293 RBM=1.80955
+RE=0.0001 RC=0.13777 XTB=0.1 XTI=1
+EG=1.05 CJE=6.36056e-10 VJE=0.4 MJE=0.479146
+TF=7.91835e-08 XTF=463.212 VTF=62107.5 ITF=1000
+CJC=2.70642e-10 VJC=0.95 MJC=0.406578 XCJC=0.128859
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=8.186e-05 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7824CT 1 2 3
* POSITIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc 25.3
Q2 1 4 5 CNTL_NPN
Q1 1 5 3 POWER_NPN
*
.MODEL CNTL_NPN NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.MODEL POWER_NPN NPN
+IS=3.41639e-13 BF=405.26 NF=1.03507 VAF=120.176
+IKF=10 ISE=8.44498e-12 NE=3.47601 BR=0.1
+NR=1.04536 VAR=1.10398 IKR=2.5029 ISC=5.50017e-13
+NC=3.93748 RB=1.80955 IRB=6.50293 RBM=1.80955
+RE=0.0001 RC=0.13777 XTB=0.1 XTI=1
+EG=1.05 CJE=6.36056e-10 VJE=0.4 MJE=0.479146
+TF=7.91835e-08 XTF=463.212 VTF=62107.5 ITF=1000
+CJC=2.70642e-10 VJC=0.95 MJC=0.406578 XCJC=0.128859
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=8.186e-05 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m


