
************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7905CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -6.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7909CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -10.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7912CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -13.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7915CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -16.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7918CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -19.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m



************************************************************************

##################  Model Data Report  ##################

============= SPICE Model =================
.SUBCKT LM7924CT 1 2 3
* NEGATIVE 3 TERMINAL VOLTAGE REGULATOR
* PIN 1 = VOLTAGE INPUT
* PIN 2 = VOLTAGE REF (USUALLY GND)
* PIN 3 = VOLTAGE OUTPUT
* OUTPUT VOLTAGE = V1 - 1.3v
R1 5  3 50
R2 1  4 10000
R3 3  2 10000
V1 4  2 dc -25.3
Q2 1 4 5 CNTL_PNP
Q1 1 5 3 POWER_PNP
*
.MODEL POWER_PNP PNP
+IS=9.22554e-15 BF=7026.13 NF=0.875675 VAF=121.334
+IKF=1 ISE=4.16599e-14 NE=1.16082 BR=0.1
+NR=1.5 VAR=0.840001 IKR=10 ISC=4.16599e-14
+NC=1 RB=1.16529 IRB=0.1 RBM=1.16529
+RE=0.0001 RC=3.25699 XTB=0.1 XTI=1
+EG=1.206 CJE=1.98647e-10 VJE=0.4 MJE=0.85
+TF=1.6698e-09 XTF=1000 VTF=1.23886 ITF=13.7503
+CJC=4.56014e-11 VJC=0.95 MJC=0.463492 XCJC=0.84185
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL CNTL_PNP PNP
+IS=6.28714e-14 BF=386.157 NF=1.04671 VAF=10
+IKF=0.189462 ISE=1.92795e-13 NE=1.41391 BR=0.1
+NR=1.14919 VAR=1.3773 IKR=0.853995 ISC=1.92795e-13
+NC=2.83982 RB=18.4538 IRB=0.1 RBM=0.1
+RE=0.0561856 RC=1.23424 XTB=0.251412 XTI=1
+EG=1.05 CJE=2.79854e-11 VJE=0.718974 MJE=0.375151
+TF=5.18862e-10 XTF=1.5 VTF=0.999999 ITF=1
+CJC=1.98079e-11 VJC=0.4 MJC=0.393215 XCJC=0.8
+FC=0.649759 CJS=0 VJS=0.75 MJS=0.5
+TR=1.16047e-06 PTF=0 KF=0 AF=1
.ENDS
============= Model template =================
x%p %tIN %tGND %tOUT %m


